US07923456B2
Step 1: 5-(4-Bromo-2-fluorophenylamino)-N-(2-(vinyloxy)ethoxy)-imidazo[1,5-a]pyrazine-6-carboxamide
To a stirred solution of 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester (150 mg, 0.41 mmol) and O-(2-vinyloxy-ethyl)hydroxylamine (127 mg, 1.23 mmol, 3.0 eq) in anhydrous THF (7.5 mL) at 0° C. was added lithium hexamethyldisilazide (1M in THF, 1.2 mL, 1.23 mmol, 3.0 eq.), and the reaction mixture was stirred at room temperature. After 1 h the reaction mixture was quenched with saturated aqueous solution of sodium bicarbonate and diluted with ethyl acetate. The organic layer was isolated and washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0 to 5% methanol in dichoromethane) to give an oil. Crystallization from DCM—ether—hexane afforded the desired product as a pale orange solid (160.2 mg, 89.4%). LCMS (method C): RT=2.53 min, [M+H]+=437/439.

reactant | 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester | 0.41 mmol, 150 mg | COC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2 | C14H10BrFN4O2
reactant | O-(2-vinyloxy-ethyl)hydroxylamine | 1.23 mmol, 127 mg, 3.0 eq | C(=C)OCCON | C4H9NO2
reactant | lithium hexamethyldisilazide | 1.23 mmol, 1M, 1.2 mL, 3.0 eq. | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | 5-(4-Bromo-2-fluorophenylamino)-N-(2-(vinyloxy)ethoxy)-imidazo[1,5-a]pyrazine-6-carboxamide | 160.2 mg, 89.4% | BrC1=CC(=C(C=C1)NC1=C(N=CC=2N1C=NC2)C(=O)NOCCOC=C)F | C17H15BrFN5O3
